US04187316
3-Amino-1,5-cyclohexadiene carboxylic acid hydrochloride (200 mg) is dissolved in ethanol containing anhydrous HCl, and the resulting solution is stirred over night at 0° C. Evaporation of the solvent affords ethyl 3-amino-1,5-cyclohexadienecarboxylate hydrochloride.

reactant | 3-Amino-1,5-cyclohexadiene carboxylic acid hydrochloride | 200 mg | Cl.NC1C=C(C=CC1)C(=O)O
reactant | ethanol | C(C)O | C2H6O
product | ethyl 3-amino-1,5-cyclohexadienecarboxylate hydrochloride | Cl.NC1C=C(C=CC1)C(=O)OCC | InChI=1S/C9H13NO2.ClH/c1-2-12-9(11)7-4-3-5-8(10)6-7;/h3-4,6,8H,2,5,10H2,1H3;1H
